US06004977
2,3-Dihydro-4-chloro-2-(4-pyridinylamino)-1H-isoindol-7-ol dihydrobromide
To a solution of 2,3-dihydro-4-chloro-7-methoxy-N-(4-pyridinyl)-1H-isoindol-2-amine hydrochloride (1.12 g) in dichloromethane (10 mL) was added boron tribromide (1.0 mL ) at 0° C. The solution was warmed to ambient temperature and stirred for 3 days. Methanol was added, and the mixture was filtered to give 1.2 g (79%) of product, mp>240° C. (decomp).

reactant | 2,3-dihydro-4-chloro-7-methoxy-N-(4-pyridinyl)-1H-isoindol-2-amine hydrochloride | 1.12 g | Cl.ClC1=C2CN(CC2=C(C=C1)OC)NC1=CC=NC=C1
reactant | boron tribromide | 1.0 mL | B(Br)(Br)Br | BBr3
reactant | Methanol | CO | CH4O
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 2,3-Dihydro-4-chloro-2-(4-pyridinylamino)-1H-isoindol-7-ol dihydrobromide | 1.2 g, 79% | Br.Br.ClC1=C2CN(CC2=C(C=C1)O)NC1=CC=NC=C1 | InChI=1S/C13H12ClN3O.2BrH/c14-12-1-2-13(18)11-8-17(7-10(11)12)16-9-3-5-15-6-4-9;;/h1-6,18H,7-8H2,(H,15,16);2*1H
